US06268523B1
To a reaction vial with a TEFLON fluoropolymer magnetic stirring rod, 3 ml containing 0.2 M tert-butyl hydroperoxide, and 0.2 M 2-ethylhexanoic acid in isooctane was added. The reaction was started by addition of 200 mg of Rhizomucor miehei enzyme and about 25 mg of molsieves (7 grains). After sixty-seven hours, 15% conversion to tert-butyl peroxy-2-ethylhexanoate was obtained as measured with GC.

reactant | tert-butyl hydroperoxide | 0.2 M | C(C)(C)(C)OO | C4H10O2
reactant | 2-ethylhexanoic acid | 0.2 M | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | isooctane | C(C)(C)CC(C)(C)C | C8H18
product | tert-butyl peroxy-2-ethylhexanoate | CCCC1C(OO1)(CC)C(=O)OC(C)(C)C | C12H22O4
